US06444685B1
N-Butyl-4-{4-[(2S)-2-hydroxy-3-(2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxy)-propylamino]-piperidin-1-yl}-benzenesulfonamide
The title compound was prepared from 4-((2S)-3-amino-2-hydroxy-propoxy)-1,3-dihydro-benzoimidazol-2-one and Reference Example 11, N-butyl-4-(4-oxo-piperidin-1-yl)-benzenesulfonamide, according to the procedure of Example 1 as an off-white solid; mp 69-75° C.; 1H NMR (300 MHz, DMSO-d6) δ 0.79 (t, 3H), 1.10-1.40 (m, 6H), 1.75-1.90 (m, 2H), 2.67 (t, 2H), 2.10-3.00 (m, 5H), 3.70-4.10 (m, 5H), 6.55 (d, 3H), 6.62 (d, 1H), 6.83 (t, 1H), 7.00 (d, 2H), 7.52 (d, 2H), 10.45-10.80 (m, 2H); MS (ES) m/z: 518.1 (MH+); HRMS Calcd. for C25H36N5O5 S (MH+): 518.2437. Found: 518.2446.

reactant | 4-((2S)-3-amino-2-hydroxy-propoxy)-1,3-dihydro-benzoimidazol-2-one | NC[C@@H](COC1=CC=CC=2NC(NC21)=O)O | C10H13N3O3
reactant | N-butyl-4-(4-oxo-piperidin-1-yl)-benzenesulfonamide | C(CCC)NS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)=O | C15H22N2O3S
product | N-Butyl-4-{4-[(2S)-2-hydroxy-3-(2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxy)-propylamino]-piperidin-1-yl}-benzenesulfonamide | C(CCC)NS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)NC[C@@H](COC1=CC=CC=2NC(NC21)=O)O | C25H35N5O5S
